US04820729
C. N-Carbobenzoxy-L-Alanyl-N-(5-Indanyl)-Glycine
To a solution of ethyl N-carbobenzoxy-L-alanyl-N-(5-indanyl)-glycinate (14.0 g, 33.0 mmol) in 150 ml ethanol was added sodium hydroxide (25 ml of a 2N aqueous solution, 49.5 mmol) and mixture stirred at room temperature for 20 h. The volatiles were removed under reduced pressure and the residue dissolved in ether and saturated sodium bicarbonate. The organic layer was separated and extracted with saturated sodium bicarbonate. The combined basic extracts were cooled in an ice bath and acidified with concentrated HCl. The aqueous solution was extracted thoroughly with CH2Cl2. The combined organic extracts were dried (MgSO4) and concentrated in vacuo.

reactant | ethyl N-carbobenzoxy-L-alanyl-N-(5-indanyl)-glycinate | 33.0 mmol, 14.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)OCC)C=1C=C2CCCC2=CC1 | C24H28N2O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-Carbobenzoxy-L-Alanyl-N-(5-Indanyl)-Glycine | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)N(CC(=O)O)C=1C=C2CCCC2=CC1 | C22H24N2O5
